US06624196B2
A mixture of 4-methyl-benzoyl chloride (0.74 mL, 0.0056 mol) and 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester (0.93 g, 0.0045 mol) in toluene (22 mL) was refluxed under nitrogen for 17 hours and allowed to cool. The mixture was diluted with THF (20 mL), and washed with 0.1 M aqueous sodium hydroxide. The solids that remained undisolved were filtered, washed with water, and dried in house vacuum (40° C., air bleed) to give 0.592 g of 4-[4-(4-methyl-benzoylamino)-phenyl]-4-oxo-butyric acid, methyl ester as an off-white solid; mp 192-195° C.

reactant | 4-methyl-benzoyl chloride | 0.0056 mol, 0.74 mL | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
reactant | 4-(4-amino-phenyl)-4-oxo-butyric acid, methyl ester | 0.0045 mol, 0.93 g | NC1=CC=C(C=C1)C(CCC(=O)OC)=O | C11H13NO3
solvent | toluene | 22 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-[4-(4-methyl-benzoylamino)-phenyl]-4-oxo-butyric acid, methyl ester | 0.592 g | CC1=CC=C(C(=O)NC2=CC=C(C=C2)C(CCC(=O)OC)=O)C=C1 | C19H19NO4
